US04711895
40 mg (0.13 mmole) of 4-butyl-5-(1-hydroxybutyl)-4-trimethylsilyloxy-2-cyclopentenone was dissolved in 2 ml of pyridine, and at room temperature, 0.1 ml (1.3 mmoles) of mesyl chloride was added. The mixture was stirred for 8 hours. After the reaction, water was added, and the mixture was extracted with methylene chloride. The extract was dried, and concentrated, and 2 ml of benzene and 0.2 ml (1.3 mmoles) of DBU were added. The mixture was stirred at room temperature for 2 hours. Water was added, and the mixture was exracted with benzene. The extract was dried and concentrated, and the residue was chromatographed on a silica gel column (Merck silica gel 4 g, hexane:ethyl acetate=20:1) to give 18 mg (yield 48%) of 4-butyl-5-[(E)-butylidene]-4-trimethylsilyloxy-2-cyclopentenone (Rf=0.7, hexane:ethyl actate=3:1) and 5 mg (yield 14%) of its Z-isomer (Rf=0.75, hexane:ethyl acetate=3:1).

reactant | 4-butyl-5-(1-hydroxybutyl)-4-trimethylsilyloxy-2-cyclopentenone | 0.13 mmole, 40 mg | C(CCC)C1(C=CC(C1C(CCC)O)=O)O[Si](C)(C)C | C16H30O3Si
reactant | mesyl chloride | 1.3 mmoles, 0.1 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | DBU | 1.3 mmoles, 0.2 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | Water | O | H2O
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 4-butyl-5-[(E)-butylidene]-4-trimethylsilyloxy-2-cyclopentenone | 18 mg, yield 48% | C(CCC)C\1(C=CC(/C1=C/CCC)=O)O[Si](C)(C)C | C16H28O2Si
